US04352811
5,6-Dimethoxy-3-{1-[4,4-bis(4-fluorophenyl)-1-butyl]-4-piperidyl}-1,2-benzisoxazole hydrobromide
A stirred mixture of 2.60 g of 5,6-dimethoxy-3-(4-piperidyl)-1,2-benzisoxazole hydrobromide, 3.30 g of potassium carbonate, 0.25 g of potassium iodide, 2.20 g of 4-chloro-1,1-bis(4-fluorophenyl)butane and 75 ml of dimethylformamide was heated to 90° for 8 hrs and overnight at ambient temperature. The reaction mixture was poured into 500 ml of water and was extracted with ether, dried over anhydrous magnesium sulfate and the solvent was removed in vacuo to yield an oil. The oil was purified by filtering through a silica gel column (25:1), using dichloromethane as eluent. The eluent was evaporated and the residue was dissolved in ether, and a saturated hydrogen bromide-ether solution was added dropwise to precipitate the salt. The salt was collected and washed with 3.0 g of ether. Recrystallization from toluene-water yielded 2.2 g (48.3%) of the product, mp 195°-197°.

reactant | 5,6-dimethoxy-3-(4-piperidyl)-1,2-benzisoxazole hydrobromide | 2.60 g | Br.COC=1C(=CC2=C(C(=NO2)C2CCNCC2)C1)OC
reactant | potassium carbonate | 3.30 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.25 g | [I-].[K+]
reactant | 4-chloro-1,1-bis(4-fluorophenyl)butane | 2.20 g | ClCCCC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C16H15ClF2
solvent | water | 500 ml | O | H2O
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | 5,6-Dimethoxy-3-{1-[4,4-bis(4-fluorophenyl)-1-butyl]-4-piperidyl}-1,2-benzisoxazole hydrobromide | 2.2 g, 48.3% | Br.COC=1C(=CC2=C(C(=NO2)C2CCN(CC2)CCCC(C2=CC=C(C=C2)F)C2=CC=C(C=C2)F)C1)OC | InChI=1S/C30H32F2N2O3.BrH/c1-35-28-18-26-27(19-29(28)36-2)37-33-30(26)22-13-16-34(17-14-22)15-3-4-25(20-5-9-23(31)10-6-20)21-7-11-24(32)12-8-21;/h5-12,18-19,22,25H,3-4,13-17H2,1-2H3;1H
